US06645990B2
To a 150 mL flask containing 6-bromo-1′-methyl-2′,3′,5′,6′-tetrahydro-1′H-[2,4′]bipyridinyl-4′-ol (5 g, 18.5 mmol) was added conc. H2SO4 (50 mL). Heated to 100° C. for 18 h. Cooled and poured onto ice carefully. Neutralized with 5 N NaOH and extracted with EtOAc. Washed with brine, dried (MgSO4) and concentrated in vacuo. Diluted residue with EtOAc and filtered. Concentrated filtrate in vacuo to give 6-bromo-1′-methyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl as an orange oil. MS m/z: 254.2 (M+H). Calc'd for C11H13BrN2 253.14.

reactant | 6-bromo-1′-methyl-2′,3′,5′,6′-tetrahydro-1′H-[2,4′]bipyridinyl-4′-ol | 18.5 mmol, 5 g | BrC1=CC=CC(=N1)C1(CCN(CC1)C)O | C11H15BrN2O
solvent | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
product | 6-bromo-1′-methyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl | BrC1=CC=CC(=N1)C=1CCN(CC1)C | C11H13BrN2
